US05741816
After a mixture of n-pentadecanoic acid (25 g, 103 mmol) and thionyl chloride (3.15 g, 26.5 mmol) was stirred for 3 hours at 75° to 80° C., a solution of L-carnitine (4.27 g, 26.5 mmol) in 25 g of trichloroacetic acid was added at 60° C. The resulting mixture was stirred for 3 hours at 80° C. under argon atmosphere and then poured into stirred 100 ml of diethyl ether. The precipitates were collected by filtration, washed with diethyl ether and then dried to give 11.8 g of a crude desired product as a colorless solid. 11.8 g of the crude product was recrystallized from isopropanol to provide 9.38 g of (R)-(3-carboxy-2-pentadecanoyloxypropyl)trimethylammonium chloride as colorless needles.

reactant | n-pentadecanoic acid | 103 mmol, 25 g | C(CCCCCCCCCCCCCC)(=O)O | C15H30O2
reactant | thionyl chloride | 26.5 mmol, 3.15 g | S(=O)(Cl)Cl | Cl2OS
reactant | L-carnitine | 26.5 mmol, 4.27 g | O[C@@H](C[N+](C)(C)C)CC([O-])=O | C7H15NO3
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | trichloroacetic acid | 25 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
product | (R)-(3-carboxy-2-pentadecanoyloxypropyl)trimethylammonium chloride | 9.38 g | [Cl-].C(=O)(O)C[C@H](C[N+](C)(C)C)OC(CCCCCCCCCCCCCC)=O | InChI=1S/C22H43NO4.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-22(26)27-20(18-21(24)25)19-23(2,3)4;/h20H,5-19H2,1-4H3;1H/t20-;/m1./s1
